US07700589B2
9a) diethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate
6.7 g (0.29 mol) sodium were added to 300 mL EtOH under an argon atmosphere. 60.0 g (0.27 mol) ethyl acetamidomalonate were added to the resulting solution, stirred for 1.5 h and then 62.0 g (0.27 mol) 4-bromomethyl-1,2-diethyl-benzene were slowly added dropwise. The reaction mixture was stirred overnight at RT, poured onto 1 L of water and vigorously stirred for 1 h at RT. The precipitate formed was suction filtered, suspended twice with a little water, suction filtered and dried.

reactant | sodium | 0.29 mol, 6.7 g | [Na] | Na
reactant | EtOH | 300 mL | CCO | C2H6O
reactant | ethyl acetamidomalonate | 0.27 mol, 60.0 g | C(C)(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | 4-bromomethyl-1,2-diethyl-benzene | 0.27 mol, 62.0 g | BrCC1=CC(=C(C=C1)CC)CC | C11H15Br
solvent | water | 1 L | O | H2O
product | diethyl 2-acetylamino-2-(3,4-diethyl-benzyl)-malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=C(C=C1)CC)CC | C20H29NO5
